US08110588B2
5-(4-Amino-phenyl)-3-(2-fluoro-4-trifluoromethyl-phenyl)-3H-[1,2,3]triazol-4-ylamine (12)
To a stirred and ice-cooled solution of potassium tert-butoxide (1.728 g, 14.626 mmol) in tert-butanol (50 ml), commercial 4-aminophenylacetonitrile (1.418 g, 10.7258 mmol) and 1-azido-2-fluoro-4-trifluoromethyl-benzene (2.000 g, 9.7507 mmol) are added under a nitrogen atmosphere and the reaction mixture is allowed to attain spontaneously room temperature (1 h) and finally refluxed for 6 h. The resulting reaction mixture is concentrated, added water, and extracted with ethylacetate (3×100 ml). The combined organic layers are dried over MgSO4, filtered and evaporated, to afford a dark brown gummy material (3.289 g, 100% mass balance). The crude residue is purified by column chromatography over silica gel (230-400 mesh), eluting with 25% ethylacetate in petroleum ether, to obtain the title compound as a light yellow solid (0.700 g, 21% yield). M.p. 163.6-165.0° C. LC-ESI-HRMS of [M+H]+ shows 338.1021 Da. Calc. 338.102882 Da, dev. −2.3 ppm.

reactant | potassium tert-butoxide | 14.626 mmol, 1.728 g | CC(C)([O-])C.[K+]
reactant | 4-aminophenylacetonitrile | 10.7258 mmol, 1.418 g | NC1=CC=C(C=C1)CC#N | C8H8N2
reactant | 1-azido-2-fluoro-4-trifluoromethyl-benzene | 9.7507 mmol, 2.000 g | N(=[N+]=[N-])C1=C(C=C(C=C1)C(F)(F)F)F | C7H3F4N3
solvent | tert-butanol | 50 ml | C(C)(C)(C)O | C4H10O
product | 5-(4-Amino-phenyl)-3-(2-fluoro-4-trifluoromethyl-phenyl)-3H-[1,2,3]triazol-4-ylamine | 0.700 g, 21% yield | NC1=CC=C(C=C1)C1=C(N(N=N1)C1=C(C=C(C=C1)C(F)(F)F)F)N | C15H11F4N5
